US04384966
A mixture of 8.4 parts of diketene, 2.5 parts of benzoyl peroxide and 20.0 parts of ethyl phenylphosponite were added dropwise over 1 hr to 48.1 parts of vigorously stirred ethyl phenylphosphonite which was heated at 120° C. in an atmosphere of nitrogen. The excess phosphonite was removed by passing the reaction mixture down a wiped wall still at 80° C. at a pressure of 0.013 mb. The residue was distilled on a wiped wall still at a temperature of 110° C. and a pressure of 0.013 mb and the product, ethyl(2-oxo-4-oxetanylmethyl)phenylphosphinate, was obtained as a colourless oil which was shown by 31P NMR to be a nearly equal mixture of diastereoisomers having chemical shifts at δ-37.5 and δ-37.7 and which had the following elemental analysis by weight.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ethyl phenylphosponite | C1(=CC=CC=C1)P(OCC)[O-]
product | ethyl(2-oxo-4-oxetanylmethyl)phenylphosphinate | C(C)OP(=O)(C1=CC=CC=C1)CC1CC(O1)=O | C12H15O4P
